US06369076B1
A mixture of 0.40 g of 3-(5-chloro-3H-imidazol-4-yl)-propionic acid methyl ester, 0.5 mL of N,N-diisopropylethylamine, 15 mL of dichloromethane and 0.4 mL of 2-(trimethylsilyl)ethoxymethyl chloride was stirred at room temperature for 24 h. The reaction mixture was diluted with 50 mL chloroform and 10 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 2×25 mL of chloroform and the combined organic layers dried over magnesium sulfate and concentrated under reduced pressure. Purification by chromatography eluting with ethyl acetate gave 0.8 g of 3-[5-chloro-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-yl]-propionic acid methyl ester as an oil.

reactant | 3-(5-chloro-3H-imidazol-4-yl)-propionic acid methyl ester | 0.40 g | COC(CCC=1NC=NC1Cl)=O | C7H9ClN2O2
reactant | N,N-diisopropylethylamine | 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.4 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Na2CO3 | 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 3-[5-chloro-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-yl]-propionic acid methyl ester | 0.8 g | COC(CCC=1N(C=NC1Cl)COCC[Si](C)(C)C)=O | C13H23ClN2O3Si
